US06114334
A solution of allyl bromide (0.7 ml) in dry tetrahydrofuran (5 ml) was added dropwise at 0° C. under nitrogen to a stirred mixture of 4-[4-(1,4-benzodioxan-5-yl)piperazin-1-ylmethyl]-4-methyl-2-(3-pyridyl)-2-imidazolin-5-one (2.86 g; prepared in a similar manner to that described in Example 40), powdered potassium hydroxide (0.57 g) and 18-Crown-6 (0.18 g) in dry tetrahydrofuran (60 ml). The mixture was stirred at ambient temperature for 17 hours then poured onto ice-water (30 ml) and the product extracted into ether. The extracts were dried (MgSO4) and the solvents removed in vacuo to yield a foam which was triturated with ether. The precipitate was collected by filtration to yield 1-allyl-4-[4-(1,4-benzodioxan-5-yl)piperazin-1-ylmethyl]-4-methyl-2-(3-pyridyl)-2-imidazolin-5-one as a solid (0.53 g), m.p. 102-105° C.

reactant | allyl bromide | 0.7 ml | C(C=C)Br | C3H5Br
reactant | 4-[4-(1,4-benzodioxan-5-yl)piperazin-1-ylmethyl]-4-methyl-2-(3-pyridyl)-2-imidazolin-5-one | O1CCOC2=C1C=CC=C2N2CCN(CC2)CC2(N=C(NC2=O)C=2C=NC=CC2)C | C22H25N5O3
reactant | potassium hydroxide | 0.57 g | [OH-].[K+]
reactant | 18-Crown-6 | 0.18 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-allyl-4-[4-(1,4-benzodioxan-5-yl)piperazin-1-ylmethyl]-4-methyl-2-(3-pyridyl)-2-imidazolin-5-one | 0.53 g | C(C=C)N1C(=NC(C1=O)(C)CN1CCN(CC1)C1=CC=CC=2OCCOC21)C=2C=NC=CC2 | C25H29N5O3
